US04426382
4-Amino-6,7-dimethoxy-2-[4-(2-methylacryloyl)-1-piperazinyl]quinazoline (Compound No. 2)
To 20 ml of tetrahydrofuran were added 2.4 g of 4-amino-6,7-dimethoxy-2-(1-piperazinyl)quinazoline hydrochloride and 2.6 g of triethylamine, after which the mixture was stirred for 30 minutes. There was then added 0.6 g of 2-methylacryloyl chloride, after which the mixture was stirred at room temperature for 8 hours. The crystals which were produced were collected by filtration, washed with water and recrystallized from ethanol to give 0.8 g of the desired Compound No. 2 in the form of colourless needles melting at 262°-263° C. (with decomposition).

reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | 4-amino-6,7-dimethoxy-2-(1-piperazinyl)quinazoline hydrochloride | 2.4 g | Cl.NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCNCC1
reactant | 2-methylacryloyl chloride | 0.6 g | CC(C(=O)Cl)=C | C4H5ClO
solvent | triethylamine | 2.6 g | C(C)N(CC)CC | C6H15N
product | 4-Amino-6,7-dimethoxy-2-[4-(2-methylacryloyl)-1-piperazinyl]quinazoline | 0.8 g | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)C(C(=C)C)=O | C18H23N5O3
